US06528525B1
(c) Ethyl 2-butyl-3-[4-(3-methansulfonyloxypropoxy)phenyl]propionate
In a similar manner to that described in Reference example 3(g), a reaction was carried out using ethyl 2-butyl-3-[4-(3-hydroxypropoxy)phenyl]propionate (3.02 g), triethylamine (2.05 ml) and methanesulfonyl chloride (0.83 ml) and the reaction mixture was treated to afford the desired compound (3.49 g) as a colorless oil.

reactant | ethyl 2-butyl-3-[4-(3-hydroxypropoxy)phenyl]propionate | 3.02 g | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCCO | C18H28O4
reactant | methanesulfonyl chloride | 0.83 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 2.05 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 2-butyl-3-[4-(3-methansulfonyloxypropoxy)phenyl]propionate | 3.49 g | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCCOS(=O)(=O)C | C19H30O6S
